* PSPICE TABLE source syntax not supported by this ngspice build
.option ngbehavior=ps
V1 in 0 PULSE(0 2 0 1u 1u 5u 10u)
E1 out 0 TABLE {V(in)} = (0,0) (1,2) (2,3)
R1 out 0 1k
.print tran v(out)
.tran 1u 20u
.end
